US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-1-(4-isopropylpiperazin-1-yl)ethanone (I-28)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.23 g, 0.80 mmol) and 1-isopropylpiperazine (0.102 g, 0.80 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-1-(4-isopropylpiperazin-1-yl)ethanone as a white solid (0.298 g, 93.7% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 0.80 mmol, 0.23 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | 1-isopropylpiperazine | 0.80 mmol, 0.102 g | C(C)(C)N1CCNCC1 | C7H16N2
product | 2-(4-(adamantan-1-yl)phenoxy)-1-(4-isopropylpiperazin-1-yl)ethanone | 0.298 g, 93.7% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCN(CC3)C(C)C)C=C2 | C25H36N2O2
